US08791090B2
[Step 1] Reactions and treatments were carried out in the same manner as in Step 2 of Example 117, using 102.6 g of (2S,4R)-1-acetyl-4-hydroxyl-2-methyl-1,2,3,4-tetrahydroquinoline instead of ethyl (2S,4R)-1-acetyl-4-hydroxyl-2-methyl-1,2,3,4-tetrahydroquinoline-6-carboxylate, and using 4-nitrophenol instead of benzoic acid. Thus, 118.2 mg (72.4%) of (2S,4R)-1-acetyl-2-methyl-4-(4-nitrophenoxy)-1,2,3,4-tetrahydroquinoline was obtained as a pale yellow amorphous substance.

reactant | (2S,4R)-1-acetyl-4-hydroxyl-2-methyl-1,2,3,4-tetrahydroquinoline | 102.6 g | C(C)(=O)N1[C@H](C[C@H](C2=CC=CC=C12)O)C | C12H15NO2
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | (2S,4R)-1-acetyl-2-methyl-4-(4-nitrophenoxy)-1,2,3,4-tetrahydroquinoline | 118.2 mg, 72.4% | C(C)(=O)N1[C@H](C[C@H](C2=CC=CC=C12)OC1=CC=C(C=C1)[N+](=O)[O-])C | C18H18N2O4
